US07399867B2
4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzenesulfonic acid 2,2-dimethyl-propyl ester
Place 4-bromo-benzenesulfonic acid 2,2-dimethyl-propyl ester (1.00 g, 3.26 mmol), bis(pinacolato)diboron (1.07 g, 4.23 mmol), PdCl2(dppf)2.CH2Cl2 (90 mg, 0.12 mmol), potassium acetate (1.04 g, 10.6 mmol) and anhydrous dimethyl sulfoxide (12 mL) in a round bottom flask. Put the reaction in an oil bath and stir at 90° C. for 1 to −1.5 hours. Cool the reaction to ambient temperature, quench with ample water and extract the resulting aqueous mixture into dichloromethane. Wash the combined extracts with water and brine; then dry (sodium sulfate) and evaporate them in vacuo. Purify the resulting solid on a flash column (silica gel; gradient 10% hexane/CH2Cl2 to 100% CH2Cl2 to 5% EtOAc/CH2Cl2) to provide 950 mg of the title compound (82%).

reactant | 4-bromo-benzenesulfonic acid 2,2-dimethyl-propyl ester | 3.26 mmol, 1.00 g | CC(COS(=O)(=O)C1=CC=C(C=C1)Br)(C)C | C11H15BrO3S
reactant | bis(pinacolato)diboron | 4.23 mmol, 1.07 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | CH2Cl2 | 0.12 mmol, 90 mg | C(Cl)Cl | CH2Cl2
reactant | potassium acetate | 10.6 mmol, 1.04 g | C(C)(=O)[O-].[K+]
catalyst | PdCl2(dppf)2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dimethyl sulfoxide | 12 mL | CS(=O)C | C2H6OS
product | 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzenesulfonic acid 2,2-dimethyl-propyl ester | 950 mg, 82% | CC(COS(=O)(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)(C)C | C17H27BO5S
